US07344702B2
Synthesis of 2-tert-butyl-4-chloro-5-(4-(4-toluenesulfonyloxybutyl)benzyl)thio-3(2H)-pyridazinone
To a 15 ml round bottom flask charged with 2-tert-butyl-4-chloro-5-(4-(4-hydroxybutyl)benzyl)thio-3(2H)-pyridazinone (0.15 g, 0.39 mmol) is added pyridine. Toluenesulfonyl chloride (88.9 mg, 0.42 mmol) is then added to it and the mixture stirred for 2 hours. The reaction mixture is diluted with ethyl acetate, washed with 5% copper sulfate solution and then with water and dried. After removing the solvent on the rotary evaporator the crude is purified by flash chromatography using ethyl acetate-hexanes as the eluting mixture.

reactant | 2-tert-butyl-4-chloro-5-(4-(4-hydroxybutyl)benzyl)thio-3(2H)-pyridazinone | 0.39 mmol, 0.15 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)CCCCO | C19H25ClN2O2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | Toluenesulfonyl chloride | 0.42 mmol, 88.9 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-butyl-4-chloro-5-(4-(4-toluenesulfonyloxybutyl)benzyl)thio-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)CCCCOS(=O)(=O)C=1C(=CC=CC1)C | C26H31ClN2O4S2
